US04692449
4-(5,8-Dihydro-5,8-dioxo-6-quinolyl)-1-piperazinecarboxylic acid ethyl ester
A mixture of 1.1 g of 5,8-quinolinedione in 100 ml of 1,2-dimethoxyethane was added dropwise to a solution of 2.37 g of 1-piperazinecarboxylic acid, ethyl ester in 25 ml of 1,2-dimethyoxyethane with stirring. Stirring was continued for 30 minutes, then 1 g of silver oxide was added and this mixture was stirred overnight. The mixture was filtered and the solid washed with dichloromethane. The filtrate and wash were combined, evaporated, triturated with ethyl acetate and the solid collected. This solid was chromatographed, eluting with dichloromethane, then ethyl acetate. The active fractions were combined and evaporated, giving 817 mg of the desired product, mp 192°-194° C. (dec.).

reactant | 5,8-quinolinedione | 1.1 g | N1=CC=CC=2C(C=CC(C12)=O)=O | C9H5NO2
reactant | 1-piperazinecarboxylic acid, ethyl ester | 2.37 g | N1(CCNCC1)C(=O)OCC | C7H14N2O2
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | 1,2-dimethyoxyethane | 25 ml | COCCOC | C4H10O2
catalyst | silver oxide | 1 g | [Ag]=O
product | 4-(5,8-Dihydro-5,8-dioxo-6-quinolyl)-1-piperazinecarboxylic acid ethyl ester | 817 mg | C(C)OC(=O)N1CCN(CC1)C=1C(C=2C=CC=NC2C(C1)=O)=O | C16H17N3O4
